US07678787B2
Step A. 10-(3-Bromobenzoyl)-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine
To a solution of 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine (5.0 g, 27 mmol) and N,N-diisopropylethylamine (7.5 mL, 43 mmol) in dry dichloromethane (135 mL) was added 3-bromobenzoyl chloride (2.9 mL, 22 mmol) and the reaction mixture was stirred at room temperature under nitrogen for 16 hours. The reaction mixture was then washed with 1 M hydrochloric acid (5×200 mL), 1 M sodium hydroxide (200 mL), and brine (200 mL), dried over anhydrous magnesium sulfate, and concentrated in vacuo to give a yellow solid (7.2 g). Recrystallization from ethyl acetate gave the title compound (5.8 g, 72%) as a white crystalline solid.

reactant | 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 27 mmol, 5.0 g | C=1C=CN2C1CNC1=C(C2)C=CC=C1 | C12H12N2
reactant | N,N-diisopropylethylamine | 43 mmol, 7.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-bromobenzoyl chloride | 22 mmol, 2.9 mL | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
solvent | dichloromethane | 135 mL | ClCCl | CH2Cl2
product | 10-(3-Bromobenzoyl)-10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 7.2 g | BrC=1C=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=CC1 | C19H15BrN2O
